US05523152
N-(Acryloyloxyethoxyethyl)hexahydrophthalimide (6HPIEEA)
A one liter, three necked flask was equipped with overhead stirrer, nitrogen atmosphere and an addition funnel. The flask was charged with 100 g of N-(2-hydroxyethoxyethyl)hexahydrophthalimide (0.41 mol.), 42 g of triethylamine (0.41 mol.), 1 g of phenothiazine and 400 ml of acetone. Next, 38 g of acryloyl chloride (0.41 mol.) was added slowly to the flask via the addition funnel over 45 minutes. The reaction was stirred for an additional 12 hours. The triethylamine hydrochloride salt was removed by filtration and the remaining mother liquor was evaporated with a rotoevaporator. The resulting red-orange liquid was dissolved in chloroform and extracted with HCl(10%), NaCl(aq.), NH4OH(10%), NaCl(aq.) and dried over MgSO4. The chloroform was removed with a rotoevaporator to yield 72 g (59%) of an orange-red liquid. The product was confirmed by IR and 13C NMR.

reactant | N-(2-hydroxyethoxyethyl)hexahydrophthalimide | 0.41 mol, 100 g | OCCOCCN1C(C2C(C1=O)CCCC2)=O | C12H19NO4
reactant | triethylamine | 0.41 mol, 42 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.41 mol, 38 g | C(C=C)(=O)Cl | C3H3ClO
catalyst | phenothiazine | 1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | N-(Acryloyloxyethoxyethyl)hexahydrophthalimide | 72 g, 59% | C(C=C)(=O)OCCOCCN1C(C2C(C1=O)CCCC2)=O | C15H21NO5
